US07696226B2
ethyl 2-(4-pyridinyl)-1,3-thiazole-4-carboxylate
A suspension of iso-thionicotinamide (5 g, 36.2 mmol) was dissolved in ethanol (90 mL) and treated with ethyl bromopyruvate (5 mL, 1 equivalent) and 20 g of powdered 3 A molecular sieves. The reaction was stirred at 70° C. under a nitrogen atmosphere for 48 h. The mixture was filtered and evaporated to give 12.5 g of crude material. This material was dissolved in THF (200 mL) and treated with 2,6-lutidine (17 mL, 4 equivalents). The reaction was cooled to 0° C. followed by the addition of trifluoroactetic acid (10.2 mL, 2 equivalents). Stirring was continued for 2 hrs under a nitrogen atmosphere. Water (200 mL) was added and the reaction was extracted twice with ethyl acetate (600 mL, 150 mL). The combined organic layers were washed with brined, dried over magnesium sulfate, filtered and the solvent was removed by evaporation. The crude material was purified using chloroform:ethyl acetate (1:1) to give 4.70 g (56%) of the title compound.

reactant | iso-thionicotinamide | 36.2 mmol, 5 g | C1=CN=CC=C1C(=S)N | C6H6N2S
reactant | ethyl bromopyruvate | 5 mL, 1 equivalent | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | 2,6-lutidine | 17 mL, 4 equivalents | N1=C(C=CC=C1C)C | C7H9N
reactant | Water | 200 mL | O | H2O
solvent | ethanol | 90 mL | C(C)O | C2H6O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | ethyl 2-(4-pyridinyl)-1,3-thiazole-4-carboxylate | 4.70 g, 56% | N1=CC=C(C=C1)C=1SC=C(N1)C(=O)OCC | C11H10N2O2S
